US07253282B2
A solution of 0.45 g (0.87 mmol) of trans N-[4-(2,2,2-trifluoro-1-triethylsilanyloxy-1-trifluoromethyl-ethyl)-cyclohexyl]-benzenesulfonamide in 5 mL of dry THF was cooled to −78° C. and treated dropwise with 0.7 mL (1.13 mmol) of a 1.6M solution of nBuLi in hexane. The solution was warmed to −40° C., treated with 1.0 g (4.33 mmol) of trifluoro-methanesulfonic acid 2,2,2-trifluoro-ethyl ester and then allowed to reach RT. The mixture was stirred for 30 min at RT and then refluxed for 2 hrs. The solvent was evaporated, the residue redissolved in 2 mL of THF and treated with an excess of TBAF. Distribution between a saturated aqueous solution of NH4Cl and Et2O, drying of the combined organic phases and chromatography on silica gel with heptane/EtOAc 2:1 gave 0.17 g (40%) of trans N-(2,2,2-trifluoro-ethyl)-N-[4-(2,2,2-trifluoro-1-hydroxy-1-trifluoromethyl-ethyl)-cyclohexyl]-benzenesulfonamide as a light yellow oil, MS: 486 (M−H)−.

reactant | trans N-[4-(2,2,2-trifluoro-1-triethylsilanyloxy-1-trifluoromethyl-ethyl)-cyclohexyl]-benzenesulfonamide | 0.87 mmol, 0.45 g | FC(C(C(F)(F)F)(O[Si](CC)(CC)CC)[C@@H]1CC[C@H](CC1)NS(=O)(=O)C1=CC=CC=C1)(F)F | C21H31F6NO3SSi
reactant | nBuLi | [Li]CCCC
reactant | trifluoro-methanesulfonic acid 2,2,2-trifluoro-ethyl ester | 4.33 mmol, 1.0 g | FC(COS(=O)(=O)C(F)(F)F)(F)F | C3H2F6O3S
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | trans N-(2,2,2-trifluoro-ethyl)-N-[4-(2,2,2-trifluoro-1-hydroxy-1-trifluoromethyl-ethyl)-cyclohexyl]-benzenesulfonamide | 0.17 g, 40% | FC(CN(S(=O)(=O)C1=CC=CC=C1)[C@@H]1CC[C@H](CC1)C(C(F)(F)F)(C(F)(F)F)O)(F)F | C17H18F9NO3S
